* D:\Projects\ARTIQ\filters\RFI\adisim\adc_FE.wxsch
*#SIMETRIX
V1 V1_P 0 5
V2 U2_-Vs 0 -5
R1 0 R1_N 56
V3 U1_+Vs 0 12
R2 U2_pin R1_N 332
V4 V4_P 0 -12
R3 R3_P U2_pin 332
V5 V5_P 0 1.25
R4 R4_P OUT1 332
V6 IN 0 0
R5 0 OUT1 56
R6 R6_P R4_P 332
R7 R7_P IN 1.5k
R8 C3_N R10_P 1.5k
R9 IN 0 100k
R10 R10_P 0 100k
R11 U2_+OUT U2_-OUT 56
R12 dp U2_-OUT 49.9
R13 dn U2_+OUT 49.9
R14 dn dp 2.6k
X$U1 C3_N 0 V4_P U1_+Vs U1_+Vs V4_P OUT1 U1_+Vs 0 R7_P AD8253 pinnames: -IN DGND -Vs A0 A1 nWR OUT +Vs REF +IN
X$U2 R3_P R6_P U2_pin R4_P V1_P U2_-Vs U2_+OUT U2_-OUT V5_P ADA4927 pinnames: FB- FB+ pin Nin +Vs -Vs +OUT -OUT Vocm
C1 R7_P 0 18p  
C2 0 C3_N 18p  
C3 R7_P C3_N 180p  
C4 dp dn 10p  
C5 dp dn 10p  
*.TRAN 1m
*.AC DEC 25 1 100Meg
.TF FREQ DEC 25 1 100Meg V=OUT1 VN=0

